US08802674B2
Methyl 3-(difluoromethoxy)-4-nitrobenzoate (0.9 g) was placed in a 250 mL round bottom flask and dissolved in 30 mL of ethanol. Pd/C (0.15 g, 10% Pd) was carefully added and a balloon of hydrogen was attached to the flask. The reaction was vigorously stirred over night. After checking by TLC, the reaction was filtered through a pad of celite and concentrated to give 0.6 g of methyl 4-amino-3-(difluoromethoxy)benzoate which was used without further purification.

reactant | Methyl 3-(difluoromethoxy)-4-nitrobenzoate | 0.9 g | FC(OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-])F | C9H7F2NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | methyl 4-amino-3-(difluoromethoxy)benzoate | 0.6 g | NC1=C(C=C(C(=O)OC)C=C1)OC(F)F | C9H9F2NO3
